US07612201B2
Acetic acid (17.5 mL) was added dropwise to a suspension of 4-chlororesorcinol (42.5 g, 0.293 mmol) in boron trifluoride etherate (200 mL) under a nitrogen atmosphere. The reaction mixture was heated at 90° C. for 3.5 hours and then allowed to cool to room temperature. A solid had formed after around 1 hour of cooling. The mixture was poured into 700 mL of a 10% w/v aqueous sodium acetate solution. This mixture was stirred vigorously for 2.5 hours. A light brown solid had formed which was filtered, washed with water and air-dried overnight to afford 1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone (31.6 g, 58%). LCMS: [M−H]+ 185.

reactant | Acetic acid | 17.5 mL | C(C)(=O)O | C2H4O2
reactant | 4-chlororesorcinol | 0.293 mmol, 42.5 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | boron trifluoride etherate | 200 mL | B(F)(F)F.CCOCC
product | 1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone | 31.6 g, 58% | ClC=1C(=CC(=C(C1)C(C)=O)O)O | C8H7ClO3
